US04971970
1-Cyclopropyl-6-fluoro-7-(4-formyl-3-methyl-1-piperazinyl)-5-methyl-4-oxo-3-formyl-1,2,3,4-tetrahydroquinoline (4.0 g) is dissolved in methanol (150 ml) and thereto is added manganese dioxide (9.3 g), and the mixture is stirred at room temperature for 2 hours. After removing manganese dioxide by filtration with celite, the filtrate is concentrated, and the resulting residue is recrystallized from ethanol to give 1-cyclopropyl-6-fluoro-7-(4-formyl-3 -methyl-1-piperazinyl)-5-methyl-3-formyl-1,4-dihydro-4oxoquinoline (3.9 g), as pale yellow powdery crystals, m.p. 258°-260° C.

reactant | 1-Cyclopropyl-6-fluoro-7-(4-formyl-3-methyl-1-piperazinyl)-5-methyl-4-oxo-3-formyl-1,2,3,4-tetrahydroquinoline | 4.0 g | C1(CC1)N1CC(C(C2=C(C(=C(C=C12)N1CC(N(CC1)C=O)C)F)C)=O)C=O | C20H24FN3O3
solvent | methanol | 150 ml | CO | CH4O
catalyst | manganese dioxide | 9.3 g | [O-2].[O-2].[Mn+4]
product | 1-cyclopropyl-6-fluoro-7-(4-formyl-3 -methyl-1-piperazinyl)-5-methyl-3-formyl-1,4-dihydro-4oxoquinoline | 3.9 g | C1(CC1)N1C=C(C(C2=C(C(=C(C=C12)N1CC(N(CC1)C=O)C)F)C)=O)C=O | C20H22FN3O3
